* source P1_NEAGA_LAURA-GABRIELA_433C
Q_Q5         N63009 N63887 0 QBC817-25 
R_R33         N63817 N63957 330
R_R29         N63197 N63417 330
R_R30         N62793 N63197 330
R_R7         N63553 N63823 1k
Q_Q3         N63887 N63823 N63473 QBC807-25 
R_R19         N62793 N62865 1
X_D1         N64221 0 LED PARAMS: IS=3.9573e-019 RS=2  BV=5 IBV=10e-6         
Q_Q10         N62877 N63009 VOUT QMJD31C 
C_C1         0 N63823  4.7u  TC=0,0 
R_R23         VOUT N63559 15k
R_R5         N62793 N63179 330
R_R9         N642351 0 150
R_RL         VOUT 0 {Riesire}
Q_Q6         N63009 N63411 0 QBC817-25 
R_R3         N63671 N63929 1.5k
R_R17         N64265 0 68
R_R11         N62793 N629671 680
R_R13         N63287 N633991 680
R_R16         N63411 N64265 910
Q_Q4         0 N63841 N63473 QBC807-25 
X_D4         N63811 0 LED PARAMS: IS=3.9573e-019 RS=2  BV=5 IBV=10e-6         
R_R10         N62793 N63185 1k
R_R28         N63479 N63811 330
R_R32         N63527 N63817 330
D_D2         N63175 N62793 BZX84-C2V7 
R_R4         N63929 0 1.5k
Q_Q7         N63411 N63175 N63203 QBC807-25 
Q_Q9         N63333 N62877 N62793 QBC807-25 
R_R14         N633991 N63009 680
R_R34         N63957 N64221 330
R_R12         N629671 N63287 680
X_R24         N63897 N63841 N63559 POT PARAMS: SET=1 VALUE=5k
C_C2         0 VOUT  4.7u  TC=0,0 
R_R6         N63359 N63553 1k
R_R15         N62793 N63203 3.9k
R_R18         N63333 0 4.7k
D_D3         0 N63823 BZX84-C2V7 
R_R20         N62865 N62877 1
R_R25         N63897 0 3.9k
R_R31         N63417 N63527 330
R_R21         N62865 N62877 1
Q_Q8         N63009 N63333 0 QBC817-25 
Q_Q1         N63359 N63175 N63179 QBC807-25 
Q_Q2         N63473 N63175 N63185 QBC807-25 
R_R22         N62865 N62877 1
R_R27         N63191 N63479 330
V_V1         N62793 0 32
R_R8         N63887 N642351 470
R_R26         VOUT N63191 330
R_R2         N63175 N63671 1.5k
.PARAM  riesire=1
